US07105548B2
3-(1H-1,2,3-Triazol-4-yl)benzonitrile (1.82 g, 10.69 mmol) was suspended in anhydrous MeOH (25 mL) under argon at ambient temperature. To this was added NaOMe (21.4 mL of 0.5 M solution in MeOH, 10.69 mmol), and the resulting reaction mixture was cooled to −78° C. A solution of N-fluoropyridinium triflate (2.95 g, 8.91 mmol) in anhydrous MeOH (5 mL) was then added dropwise via syringe. The reaction mixture was stirred at −78° C. for 30 min, then warmed to ambient temperature and stirred for an additional 18 h. The reaction mixture was partitioned between EtOAc (300 mL) and 1N aqueous NaOH (100 mL). The EtOAc layer was washed with additional 1N aqueous NaOH (6×50 mL). The EtOAc layer was dried (MgSO4), filtered and concentrated in vacuo. The resulting crude material was then chromatographed on silica gel eluting with hexanes:EtOAc (2:1) to afford EXAMPLE 5 3-(2-pyridin-2-yl-2H-1,2,3-triazol-4-yl)benzonitrile as a tan solid.

reactant | 3-(1H-1,2,3-Triazol-4-yl)benzonitrile | 10.69 mmol, 1.82 g | N1N=NC(=C1)C=1C=C(C#N)C=CC1 | C9H6N4
reactant | NaOMe | 10.69 mmol, 0.5 M, 21.4 mL | C[O-].[Na+]
reactant | N-fluoropyridinium triflate | 8.91 mmol, 2.95 g | [O-]S(=O)(=O)C(F)(F)F.F[N+]1=CC=CC=C1
solvent | MeOH | 25 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(2-pyridin-2-yl-2H-1,2,3-triazol-4-yl)benzonitrile | N1=C(C=CC=C1)N1N=CC(=N1)C=1C=C(C#N)C=CC1 | C14H9N5
